US08202879B2
4-Chloroquinazoline-6-carboxylic acid methoxymethylamide (XIV-1, 550 mg), 611 mg of 4-benzenesulfonylphenylamine, 49 mg of palladium (II) acetate, 190 mg of Xant phos and 997 mg of cesium carbonate were added to 1,4-dioxane (30 ml), and the interior of a reaction vessel was replaced with a nitrogen gas, followed by stirring at 100° C. for 2.5 hours. The reaction mixture was filtrated with Celite, and water was added to the filtrate, followed by extraction with ethyl acetate. The organic layer was washed with aqueous saturated sodium chloride solution, and dried over sodium sulfate. The filtrated was concentrated, and the residue was purified by silica gel column chromatography (eluting with ethyl acetate: methanol=95:5) to obtain 4-(4-benzenesulfonylphenylamino)-quinazoline-6-carboxylic acid methoxymethylamide (XI-3, 651 mg) as a pale yellow solid.

reactant | 4-Chloroquinazoline-6-carboxylic acid methoxymethylamide | 550 mg | COCNC(=O)C=1C=C2C(=NC=NC2=CC1)Cl | C11H10ClN3O2
reactant | 4-benzenesulfonylphenylamine | 611 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)N | C12H11NO2S
reactant | cesium carbonate | 997 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium (II) acetate | 49 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 4-(4-benzenesulfonylphenylamino)-quinazoline-6-carboxylic acid methoxymethylamide | 651 mg | COCNC(=O)C=1C=C2C(=NC=NC2=CC1)NC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C23H20N4O4S
